US03932505
2,4-di-t-amyl phenol (0.44 m) and KOH (0.5 m) were refluxed in toluene for two hours. Dimethylformamide (100 ml) was added and solvent was removed by distillation until the temperature reached 145°. CO2 was bubbled in and more solvent was removed until the temperature reached 160°. This temperature was maintained for four hours with CO2 passing in and the reaction mixture was worked up to give 2-hydroxy-3,5-di-t-amylbenzoic acid which was esterified to form the methyl ester, which had a boiling point of 127°-129°C at 0.7 mm Hg pressure, in 50% yield. The ester was then converted to the hydrazide by refluxing with hydrazine hydrate in aqueous ethanol. The hydrazide had a melting point of 132°-133°C and the following elemental analysis by weight:

reactant | 2,4-di-t-amyl phenol | C(C)(C)(CC)C1=C(C=CC(=C1)C(C)(C)CC)O | C16H26O
reactant | KOH | [OH-].[K+]
reactant | Dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-hydroxy-3,5-di-t-amylbenzoic acid | 50% yield | OC1=C(C(=O)O)C=C(C=C1C(C)(C)CC)C(C)(C)CC | C17H26O3
